US08461158B2
A solution of KMnO4 (88 mg, 0.559 mmol) in water (6 mL) was added dropwise to a stirred solution of 2-(difluoromethyl)-4-methoxy-1-[4-(4-morpholinyl)-6-(4-{[2-(4-thiomorpholinyl)ethyl]sulfonyl}-1-piperazinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole (170 mg, 0.266 mmol) in acetone (50 mL) and acetic acid (7.5 mL) at room temperature. After 2.5 hrs the reaction was diluted with water, decolourized with Na2SO3 and the acetone removed under vacuum. The mixture was neutralized with conc. aq. NH3 to give a precipitate, which was dissolved in CH2Cl2 and dried (Na2SO4). The solvent was then removed under vacuum. Chromatography on silica, eluting with CH2Cl2/MeOH (98.5:1.5) gave 117 mg (65% yield) of 2-(difluoromethyl)-1-[4-(4-{[2-(1,1-dioxido-4-thiomorpholinyl)ethyl]sulfonyl}-1-piperazinyl)-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-methoxy-1H-benzimidazole: mp 258-261° C.; 1H NMR (CDCl3) δ7.85 (d, J=8.3 Hz, 1H), 7.42 (t, JHF=53.5 Hz, 1H), 7.35 (t, J=8.2 Hz, 1H), 6.82 (d, J=8.0 Hz, 1H), 4.05 (s, 3H), 4.01 (br s, 4H), 3.88 (br s, 4H), 3.79 (m, 4H), 3.37 (t, J=5.0 Hz, 4H), 3.07 (m, 4H), 3.05 (s, 8H); HRMS Calcd. for C26H36F2N9O6S2: MH+ m/z 672.2198. Found: m/z 672.2184.

reactant | KMnO4 | 0.559 mmol, 88 mg | [O-][Mn](=O)(=O)=O.[K+]
reactant | 2-(difluoromethyl)-4-methoxy-1-[4-(4-morpholinyl)-6-(4-{[2-(4-thiomorpholinyl)ethyl]sulfonyl}-1-piperazinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole | 0.266 mmol, 170 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCN(CC1)S(=O)(=O)CCN1CCSCC1)C=CC=C2OC)F | C26H35F2N9O4S2
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
reactant | water | 6 mL | O | H2O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | acetic acid | 7.5 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(difluoromethyl)-1-[4-(4-{[2-(1,1-dioxido-4-thiomorpholinyl)ethyl]sulfonyl}-1-piperazinyl)-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-4-methoxy-1H-benzimidazole | 117 mg, 65% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCN(CC1)S(=O)(=O)CCN1CCS(CC1)(=O)=O)N1CCOCC1)C=CC=C2OC)F | C26H35F2N9O6S2
